US09371320B2
F) 4-(4-cyano-3-(2-methylphenyl)-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-1-yl)thiophene-2-carboxamide
A mixture of 7-methoxy-3-(2-methylphenyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile (50 mg), 4-bromothiophene-2-carboxamide (47 mg), copper(I) iodide (3.6 mg), potassium carbonate (31.5 mg) and N-methylpyrrolidone (2 mL) was stirred under microwave irradiation at 200° C. for 1 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane, methanol/ethyl acetate). The obtained fraction was purified by HPLC (C18, mobile phase: water/acetonitrile (containing 5 mM ammonium carbonate)), to the obtained fraction was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (2.5 mg).

reactant | 7-methoxy-3-(2-methylphenyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 50 mg | COC1=NC=C(C2=C1NC=C2C2=C(C=CC=C2)C)C#N | C16H13N3O
reactant | 4-bromothiophene-2-carboxamide | 47 mg | BrC=1C=C(SC1)C(=O)N | C5H4BrNOS
reactant | potassium carbonate | 31.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) iodide | 3.6 mg | [Cu]I
solvent | water | O | H2O
product | 4-(4-cyano-3-(2-methylphenyl)-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-1-yl)thiophene-2-carboxamide | 2.5 mg | C(#N)C=1C2=C(C(NC1)=O)N(C=C2C2=C(C=CC=C2)C)C=2C=C(SC2)C(=O)N | C20H14N4O2S
